US07109357B2
A mixture of 4-bromo-5-ethoxy-5H-furan-2-one (2.07 g, 10.0 mmol) and sodium azide (0.66 g, 10.2 mmol) in dimethylformamide (10 mL) was stirred at room temperature under nitrogen for 24 h. The reaction was diluted with ethyl acetate, was washed with 0° C. water and with brine, was dried over sodium sulfate, and was evaporated. Purification by flash chromatography (SiO2) eluted with 1:9 ethyl acetate:hexanes afforded 4-azido-5-ethoxy-5H-furan-2-one (1.04 g, 62% yield) as a pale yellow oil. 1H-NMR (500 MHz, CDCl3) δ 5.83 (s, 1H), 5.63 (s, 1H), 3.99 (m, 1H), 3.88 (m, 1H), 1.35 (t, J=7.1 Hz, 3H) ppm.

reactant | 4-bromo-5-ethoxy-5H-furan-2-one | 10.0 mmol, 2.07 g | BrC1=CC(OC1OCC)=O | C6H7BrO3
reactant | sodium azide | 10.2 mmol, 0.66 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-azido-5-ethoxy-5H-furan-2-one | 1.04 g, 62% yield | N(=[N+]=[N-])C1=CC(OC1OCC)=O | C6H7N3O3
